US05814653
6-(4-cyanobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole
Beginning with 9.2 mg (0.040 mMol) 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole and 14.9 mg (0.101 mMol) 4-cyanobenzoic acid, 6.7 mg (47%) of the title compound were recovered as a beige solid.

reactant | 6-amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.040 mMol, 9.2 mg | NC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C14H19N3
reactant | 4-cyanobenzoic acid | 0.101 mMol, 14.9 mg | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
product | 6-(4-cyanobenzoyl)amino-3-(dimethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 6.7 mg, 47% | C(#N)C1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N(C)C)C=C1 | C22H22N4O
